US09029536B2
B) [4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl](1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)methanone
To a solution of 1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzo[d]imidazole (6.06 g) in THF (50 mL) was added LiHMDS (1 M solution in THF, 30 ml) dropwise at 0° C. After stirring for 1 h, a solution of N-methoxy-N-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (7.10 g) in THF (50 mL) was added dropwise, and the mixture was stirred for 1 h at 0° C. The reaction mixture was poured into water and extracted with AcOEt. The extract was washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/AcOEt) and crystallized from hexane to give the title compound (6.20 g). 1H NMR (300 MHz, CDCl3) δ −0.11 (9H, s), 0.84-0.91 (2H, m), 1.37 (12H, s), 3.55-3.62 (2H, m), 6.03 (2H, s), 7.37-7.43 (1H, m), 7.45-7.50 (1H, m), 7.65-7.70 (1H, m), 7.91-7.98 (3H, m), 8.22-8.26 (2H, m).

reactant | 1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzo[d]imidazole | 6.06 g | C[Si](CCOCN1C=NC2=C1C=CC=C2)(C)C | C13H20N2OSi
reactant | LiHMDS | 1 M, 30 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | N-methoxy-N-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 7.10 g | CON(C(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C | C15H22BNO4
reactant | water | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | [4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl](1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)methanone | 6.20 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C(=O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2)C | C26H35BN2O4Si
